US08912200B2
Step 11: Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylate (XIV)
To a solution of ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxylate (1.0 g, 2.8 mmol) in dry THF (40 mL) cooled to 0° C. NaH 60% (1.342 g, 3.36 mmol) was added portion wise and the reaction mixture stirred for 30 min. (2-Chloromethoxy-ethyl)-trimethyl-silane (0.417 mL, 3.36 mmol) was added drop wise. The reaction mixture was allowed to warm up slowly to room temperature and stirred for 2 h. Saturated aqueous NaCl (30 mL) was added at 0° C. and the mixture was extracted with EtOAc (2×35 mL). The separated organic phase was dried over sodium sulfate and the solvent evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 98/2) to afford the title compound as an orange oil (0.80 g, 57%).

reactant | ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxylate | 2.8 mmol, 1.0 g | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)OCC | C18H17ClN4O2
reactant | NaH | 3.36 mmol, 1.342 g | [H-].[Na+]
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 3.36 mmol, 0.417 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | NaCl | 30 mL | [Na+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylate | 0.80 g, 57% | NC1=NC=CC(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)OCC | C24H31ClN4O3Si
